US05672609
2-[4-[2-(4-Morpholinyl)ethoxy]phenyl]-3-(4-hydroxyphenyl)-6-methylpyridine
The AlCl3 (5 g, 38 mmol) was stirred in 100 mL of DCE at 0° C., ethanethiol (4 mL, 54 mmol) was added, and the mixture stirred for 15 min. The 2-[4-[2-(4-morpholinyl)ethoxy]phenyl]-3-(4-methoxyphenyl)-6-methylpyridine (2.2 g, 5.4 mmol) in 50 mL DCE was added dropwise to the reaction mixture and stirred for 2 h as it was allowed to come to rt, then quenched with 50 mL THF at 0° C., followed by 50 mL 1N HCl and worked up. The crude product was triturated with Et2O/ pet. ether, filtered, and dried in vacuo to give 1.9 g (90 % yield) of white solid: mp 75-80 ° C.; 1H NMR (CDCl3) d 2.59-2.62 (comp, 7H, morpholine and pyr-CH3), 2.79-2.83 (t, 2H, J=5 Hz, CH2N), 3.74-3.77 (m, 4H, morpholine), 4.07-4.11 (t, 2H, J=5 Hz, OCH2), 6.63-6.71 (m, 4H, ArH), 6.94-6.97 (d, 2H, J=8 Hz, ArH), 7.11-7.13 (d, 1H, J=8 Hz, ArH), 7.24-7.27 (d, 2H, J=8 Hz, ArH), 7.53-7.56 (d, 1H, J=8 Hz, ArH); MS(FD) 390 (M+). Anal. Calcd for C24H26N3O3 : C, 73.82; H, 6.71; N, 7.17. Found: C, 73.75; H, 6.71; N, 7.05.

reactant | AlCl3 | 38 mmol, 5 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethanethiol | 54 mmol, 4 mL | C(C)S | C2H6S
reactant | 2-[4-[2-(4-morpholinyl)ethoxy]phenyl]-3-(4-methoxyphenyl)-6-methylpyridine | 5.4 mmol, 2.2 g | N1(CCOCC1)CCOC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C | C25H28N2O3
solvent | DCE | 100 mL | ClCCCl | C2H4Cl2
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | 2-[4-[2-(4-Morpholinyl)ethoxy]phenyl]-3-(4-hydroxyphenyl)-6-methylpyridine | 1.9 g, 90 % yield | N1(CCOCC1)CCOC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)O)C | C24H26N2O3
